US08580781B2
Preparation of methyl (E)-3-(2-{3-[6-oxo-3-(3,4,5-trifluorophenyl)-6H-pyridazin-1-ylmethyl]phenyl}pyrimidin-5-yl)acrylate (“A283”)
47.2 90 mg (0.4 mmol) of 6-(3,4,5-trifluorophenyl)-2H-pyridazin-3-one and 111 mg (0.41 mmol) of methyl (E)-3-[2-(3-hydroxymethylphenyl)-pyrimidin-5-yl]acrylate are suspended in 3 ml of THF with 200 mg (0.6 mmol) of polymer-bound triphenylphosphine (about 3 mmol of triphenylphosphine per g), and the mixture is shaken at room temperature for 30 min. The mixture is cooled to 0° C., and 95 μl (0.6 mmol) of diethyl azodicarboxylate are added. The reaction mixture is shaken at room temperature for 24 h. The reaction mixture is purified by means of preparative HPLC; yield: 7 mg of “A283”; HPLC: Rt=3.41 min (method C);

reactant | 6-(3,4,5-trifluorophenyl)-2H-pyridazin-3-one | FC=1C=C(C=C(C1F)F)C=1C=CC(NN1)=O | C10H5F3N2O
reactant | methyl (E)-3-[2-(3-hydroxymethylphenyl)-pyrimidin-5-yl]acrylate | 0.41 mmol, 111 mg | OCC=1C=C(C=CC1)C1=NC=C(C=N1)/C=C/C(=O)OC | C15H14N2O3
reactant | triphenylphosphine | 0.6 mmol, 200 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | 0.6 mmol, 95 μl | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | THF | 3 ml | C1CCOC1 | C4H8O
product | methyl (E)-3-(2-{3-[6-oxo-3-(3,4,5-trifluorophenyl)-6H-pyridazin-1-ylmethyl]phenyl}pyrimidin-5-yl)acrylate | O=C1C=CC(=NN1CC=1C=C(C=CC1)C1=NC=C(C=N1)/C=C/C(=O)OC)C1=CC(=C(C(=C1)F)F)F | C25H17F3N4O3
